US08604208B2
Methanol (5 mL) was added to a reaction vessel containing sorafenib free base (1.0 g) and the reaction mixture was stirred for about 5 minutes. Methanolic HCl (5 mL) was added gradually to the above reaction mixture at 0° C. The reaction mixture was stirred for about 1 hour. Diisopropyl ether (10 mL) was added. The reaction mixture was stirred for about 1 hour. The solid was filtered and dried under reduced pressure at about 50° C. for about 3 hours to obtain sorafenib hydrochloride.

reactant | sorafenib | 1.0 g | CNC(=O)C=1C=C(C=CN1)OC=2C=CC(=CC2)NC(=O)NC=3C=CC(=C(C3)C(F)(F)F)Cl | C21H16ClF3N4O3
reactant | HCl | 5 mL | Cl | ClH
reactant | Diisopropyl ether | 10 mL | C(C)(C)OC(C)C | C6H14O
solvent | Methanol | 5 mL | CO | CH4O
product | sorafenib hydrochloride | Yield: 74.7% | CNC(=O)C=1C=C(C=CN1)OC=2C=CC(=CC2)NC(=O)NC=3C=CC(=C(C3)C(F)(F)F)Cl.Cl | InChI=1S/C21H16ClF3N4O3.ClH/c1-26-19(30)18-11-15(8-9-27-18)32-14-5-2-12(3-6-14)28-20(31)29-13-4-7-17(22)16(10-13)21(23,24)25;/h2-11H,1H3,(H,26,30)(H2,28,29,31);1H
